US04707473
A solution of methyl phenoxazine-4-carboxylate (0.241 g, 1 mmol) in methanol (25 ml) containing potassium hydroxide (0.560 g) was heated at reflux for 1 hour. The solvent was removed in vacuo and 5% hydrochloric acid added to the residue. The product was extracted with ethyl acetate, washed with water, dried over sodium sulfate and the solvent removed under reduced pressure. The solid residue was homogeneous by TLC over silica gel (ethyl acetate:hexane 1:3) and was different from the monocarboxylic acid described by Gilman and Moore. After recrystallization from benzene:ethyl ether phenoxazine-4-carboxylic acid, mp 181°-182° C. was obtained.

reactant | methyl phenoxazine-4-carboxylate | 1 mmol, 0.241 g | C1=CC=C(C=2OC3=CC=CC=C3NC12)C(=O)OC | C14H11NO3
reactant | potassium hydroxide | 0.560 g | [OH-].[K+]
solvent | methanol | 25 ml | CO | CH4O
product | ethyl ether phenoxazine-4-carboxylic acid | C1=CC=C(C=2OC3=CC=CC=C3NC12)C(=O)O.C(C)OCC | InChI=1S/C13H9NO3.C4H10O/c15-13(16)8-4-3-6-10-12(8)17-11-7-2-1-5-9(11)14-10;1-3-5-4-2/h1-7,14H,(H,15,16);3-4H2,1-2H3
